US09302989B2
tert-butyl 4-(4-aminophenylthio)piperidine-1-carboxylate
To a 100 mL round-bottomed flask was added 4-aminobenzenethiol (4.9 g, 39.1 mmol) and potassium carbonate (9.72 g, 70.3 mmol) in dimethylformamide (20 ml). tert-Butyl 4-(tosyloxy)piperidine-1-carboxylate (5 g, 14.07 mmol) was added and the reaction was stirred in a sealed flask at 70° C. for 20 hours. The mixture was cooled and filtered through a plug of silica gel with dichloromethane. The filtrate was concentrated under vacuum and chromatographed to give the title compound.

reactant | 4-aminobenzenethiol | 39.1 mmol, 4.9 g | NC1=CC=C(C=C1)S | C6H7NS
reactant | potassium carbonate | 70.3 mmol, 9.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-Butyl 4-(tosyloxy)piperidine-1-carboxylate | 14.07 mmol, 5 g | S(=O)(=O)(C1=CC=C(C)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C17H25NO5S
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | tert-butyl 4-(4-aminophenylthio)piperidine-1-carboxylate | NC1=CC=C(C=C1)SC1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O2S
